US06469003B1
To a solution of 2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-4-(3-pyridylmethoxy)-3(2H)-pyridazinone (320 mg) in N,N-tetrahydrofuran (12 ml) was added 6N hydrochloric acid (1.4 ml), followed by stirring at room temperature for 17 hours. The solvent was removed by evaporation, a saturated aqueous sodium hydrogen carbonate solution was added to the resulting residue to adjust the pH to about 10 and then the mixture was extracted with chloroform. After washing with water and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and a 4M hydrogen chlorid/1,4-dioxane solution (10 ml) was added to the resulting residue, followed by stirring at room temperature for 10 minutes. The solvent was removed by evaporation, and the resulting residue was crystallized from ether to obtain 6-acetyl-2-(4-fluorophenyl)-5-methyl-4-(3-pyridylmethoxy)-3(2H)-pyridazinone hydrochloride (190 mg) (Compound No. 1-114).

reactant | 2-(4-fluorophenyl)-5-methyl-6-(2-methyl-1,3-dioxolan-2-yl)-4-(3-pyridylmethoxy)-3(2H)-pyridazinone | 320 mg | FC1=CC=C(C=C1)N1N=C(C(=C(C1=O)OCC=1C=NC=CC1)C)C1(OCCO1)C | C21H20FN3O4
reactant | hydrochloric acid | 6N, 1.4 ml | Cl | ClH
product | 6-acetyl-2-(4-fluorophenyl)-5-methyl-4-(3-pyridylmethoxy)-3(2H)-pyridazinone hydrochloride | 190 mg | Cl.C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)F)=O)OCC=1C=NC=CC1)C | InChI=1S/C19H16FN3O3.ClH/c1-12-17(13(2)24)22-23(16-7-5-15(20)6-8-16)19(25)18(12)26-11-14-4-3-9-21-10-14;/h3-10H,11H2,1-2H3;1H
